US09303007B2
Pd(Ph3P)4 (27.1 mg, 0.023 mmol) was added to a nitrogen purged suspension of (2S,4S)-tert-butyl 2-(5-(6-bromonaphthalen-2-yl)-4-chloro-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate, (230 mg, 0.469 mmol), (2S,4S)-tert-butyl 4-methyl-2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (234 mg, 0.515 mmol) and NaHCO3 (197 mg, 2.34 mmol) in an argon-degassed solution of DME (4 mL) and water (1 mL). The pressure vessel was charged with argon, sealed, and immersed into a pre-heated oil bath (85° C.) and stirred for 14 h. The mixture was diluted with EtOAc (Note: THF and MeOH were added to aid dissolution) and washed with sat′d NaHCO3 soln, brine, dried (Na2SO4), filtered and concentrated. The residue was purified utilizing a Thompson 90 g SiO2 column (Gradient elution 5% to 100% B for 2 L and hold for 0.5 L Solvent B=ethyl acetate and Solvent A=hexanes) to yield (2S,4S)-tert-butyl 2-(5-(6-(4-(2-((2S,4S)-1-(tert-butoxycarbonyl)-4-methylpyrrolidin-2-yl)-1H-imidazol-5-yl)phenyl)naphthalen-2-yl)-4-chloro-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate (270 mg, 70%) as a foam. For the purpose of characterization approx. 20 mg was dissolved in MeOH (up to 2 mL) and subject to prep HPLC vial (0 to 100% B over a 30 min gradient at 40 ml/min) using a PHENOMENEX® Luna column (30×100 mm, S10) where B=95% CH3CN-5% H2O-10 mM NH4OAc and A=5% CH3CN-95% H2O-10 mM NH4OAc. LC-MS retention time 3.90 min; calcd. for C42H50ClN6O4: 737.36 m/z. found 737.43 [M+H]. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 4 min, a hold time of 1 min and an analysis time of 5 min where Solvent A was 5% methanol/95% water/0.1% TFA and Solvent B was 95% methanol/5% water/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (500 MHz, MeOD) δ ppm 8.21 (s, 1H), 8.16 (s, 1H), 8.03 (d, J=8.6 Hz, 1H), 7.99 (d, J=8.6 Hz, 2H), 7.91-7.81 (m, 6H), 7.42 (s, 1H), 4.86 (under MeOH, 1H), 4.80-4.877 (m, 1H), 3.82-3.77 (m, 2H), 3.20 (t, J=10.4 Hz, 2H), 2.52-2.47 (m, 2H), 2.37-2.34 (m, 2H), 1.83-1.73 (m, 2H), 1.46/1.26/1.23 (s, 18H), 1.16 (m, 6H).

reactant | (2S,4S)-tert-butyl 2-(5-(6-bromonaphthalen-2-yl)-4-chloro-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate | 0.469 mmol, 230 mg | BrC=1C=C2C=CC(=CC2=CC1)C1=C(N=C(N1)[C@H]1N(C[C@H](C1)C)C(=O)OC(C)(C)C)Cl | C23H25BrClN3O2
reactant | (2S,4S)-tert-butyl 4-methyl-2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 0.515 mmol, 234 mg | C[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C25H36BN3O4
reactant | NaHCO3 | 2.34 mmol, 197 mg | C(=O)(O)[O-].[Na+]
catalyst | Pd(Ph3P)4 | 0.023 mmol, 27.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2S,4S)-tert-butyl 2-(5-(6-(4-(2-((2S,4S)-1-(tert-butoxycarbonyl)-4-methylpyrrolidin-2-yl)-1H-imidazol-5-yl)phenyl)naphthalen-2-yl)-4-chloro-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate | 270 mg, 70% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)C)C=1NC(=CN1)C1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)C1=C(N=C(N1)[C@H]1N(C[C@H](C1)C)C(=O)OC(C)(C)C)Cl | C42H49ClN6O4
